US08669234B2
2-[5-(4-Bromo-phenyl)-5-methyl-4-oxo-4,5-dihydro-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a stirred solution of 2-[1-(4-bromo-phenyl)-1-carbamoyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (160 mg, 0.36 mmol) in ethanol (10 mL) was added 1 N NaOH (5 mL), and stirred at ambient condition for 3 hours. Most of the volatile component was removed in vacuo, and the resulting residue was dissolved in ethyl acetate (100 mL), washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a white solid (120 mg, 79%). m/z 421.8, 423.8 (M+H)+.

reactant | 2-[1-(4-bromo-phenyl)-1-carbamoyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 160 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(C)(C(N)=O)C1=CC=C(C=C1)Br)=O | C19H26BrN3O4
reactant | NaOH | 1 N, 5 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[5-(4-Bromo-phenyl)-5-methyl-4-oxo-4,5-dihydro-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 120 mg, 79% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(C(N1)=O)(C)C1=CC=C(C=C1)Br | C19H24BrN3O3
